US06403586B1
(1) Preparation of 4-Ethoxycarbonyl-2-ethoxycarbonylmethyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one
Using 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and ethyl bromoacetate as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 84.5%.

reactant | 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | C(C)OC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C14H14N2O4
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | 4-Ethoxycarbonyl-2-ethoxycarbonylmethyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 84.5% | C(C)OC(=O)C=1C(N(N=C(C1)C1=CC=C(C=C1)OC)CC(=O)OCC)=O | C18H20N2O6
